US05670455
Preparation of 2-(4-chloro-2-fluoro-5-methoxyphenyl)imidazo[1,2-a]pyridine
A mixture of 0.8 g (4.1 mmol) of 2-bromoimidazo[1,2-a]pyridine, 0.8 g (4.2 mmol) of 4-chloro-2-fluoro-5-methoxyphenylboronic acid, and 0.2 g (0.28 mmol) of bis(triphenylphosphine)palladium(II) chloride were heated in 30 ml of glyme at reflux for 2 h. The reaction mixture was partitioned between 250 ml of ethyl acetate and 100 ml of water and the separated organic layer washed with brine and dried over magnesium sulfate. On evaporating in vacuo, the remaining residue was flash chromatographed on silice gel (1:1 hexane/ethyl acetate) to afford 0.7 g of the title compound (m.p. 139°-141° C.). NMR (CDCl3, 400 MHz): δ4.03 (s, 3H), 6.81 (t, 1H), 7.21 (m, 2H), 8.63 (d, 1H), 7.92 (d, 1H), 8.04 (s, 1H), 8.14 (d, 1H).

reactant | 2-bromoimidazo[1,2-a]pyridine | 4.1 mmol, 0.8 g | BrC=1N=C2N(C=CC=C2)C1 | C7H5BrN2
reactant | 4-chloro-2-fluoro-5-methoxyphenylboronic acid | 4.2 mmol, 0.8 g | ClC1=CC(=C(C=C1OC)B(O)O)F | C7H7BClFO3
solvent | glyme | 30 ml | C(OC)COC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.28 mmol, 0.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-chloro-2-fluoro-5-methoxyphenyl)imidazo[1,2-a]pyridine | 0.7 g | ClC1=CC(=C(C=C1OC)C=1N=C2N(C=CC=C2)C1)F | C14H10ClFN2O
